US08466122B2
To a solution of 2,3-bis((9Z,12Z)-octadeca-9,12-dienyloxy)propanal (1.5 g, 2.62 mmol) in anhydrous diethyl ether (10 mL) was added LinMgBr Grignard (2.56 mL, 5.23 mmol). Upon completion, the solution was quenched with 5% HCl (50 mL) and washed with diethyl ether (3×50 mL). The combined ethyl ether extracts were dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The residue was purified by column chromatography on silica gel 60 (eluted with a gradient of 100% hexanes to 2% ethyl acetate in hexanes) to afford (12Z,15Z)-1,2-bis((9Z,12Z)-octadeca-9,12-dienyloxy)henicosa-12,15-dien-3-ol as a colorless oil (460 mg, 21%).

reactant | 2,3-bis((9Z,12Z)-octadeca-9,12-dienyloxy)propanal | 2.62 mmol, 1.5 g | C(CCCCCCC\C=C/C\C=C/CCCCC)OC(C=O)COCCCCCCCC\C=C/C\C=C/CCCCC | C39H70O3
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (12Z,15Z)-1,2-bis((9Z,12Z)-octadeca-9,12-dienyloxy)henicosa-12,15-dien-3-ol | 460 mg, 21% | C(CCCCCCC\C=C/C\C=C/CCCCC)OCC(C(CCCCCCCC\C=C/C\C=C/CCCCC)O)OCCCCCCCC\C=C/C\C=C/CCCCC | C57H104O3
